* ============================================================================
* SKY130 Bandgap Reference — TT Corner Model Library
* ============================================================================
*
* Extracted from: google/skywater-pdk-libs-sky130_fd_pr (Apache 2.0)
* Source:         https://github.com/google/skywater-pdk-libs-sky130_fd_pr
* Corner:         TT (typical-typical)
* Devices:        sky130_fd_pr__pfet_01v8  — 1.8V PMOS (BSIM4, 52-bin)
*                 sky130_fd_pr__pnp_05v5_W3p40L3p40  — 5V PNP BJT
*                 sky130_fd_pr__res_generic_po  — Poly resistor
*
* This is a MINIMAL extraction for bandgap reference simulation only.
* For full PDK usage, install the complete sky130_fd_pr library.
*
* Copyright 2020 The SkyWater PDK Authors
* Licensed under the Apache License, Version 2.0
* ============================================================================

* --- TT Corner Parameters (from corners/tt/) ---
.param
* PFET junction capacitance multipliers (from corners/tt/specialized)
+ sky130_fd_pr__pfet_01v8__ajunction_mult = 9.9626e-1
+ sky130_fd_pr__pfet_01v8__pjunction_mult = 1.0009e+0
* PNP corner parameters (from corners/tt/nonfet.spice)
+ dkispp5x  = 1.0046e+00
+ dkbfpp5x  = 1.1288e+00
+ dknfpp5x  = 1.0009e+00
+ dkisepp5x = 0.745
* Parasitic diode junction multipliers for PNP (from corners/tt/nonfet.spice)
+ sky130_fd_pr__model__parasitic__diode_ps2nw__ajunction_mult = 9.8286e-01
+ sky130_fd_pr__model__parasitic__diode_ps2nw__pjunction_mult = 9.8954e-01
* Resistor parameters (from r+c/res_typical__cap_typical.spice)
+ rp1 = 48.2
* Resistor width tolerances (from r+c/res_typical__cap_typical.spice)
+ tol_poly = 0.0
+ poly_dw  = -0.056u
* Resistor temperature coefficients (from sky130_fd_pr__model__r+c.model.spice)
+ tc1rsgpu = 8.916e-4
+ tc2rsgpu = 8.443e-7

* ============================================================================
* PFET 1.8V — BSIM4 Level 54, 52-bin model
* ============================================================================
* File: sky130_fd_pr__pfet_01v8__tt.pm3.spice (787 KB, self-contained)
.include "sky130_fd_pr__pfet_01v8__tt.pm3.spice"

* ============================================================================
* PNP 5V BJT — W=3.40um L=3.40um (Gummel-Poon Level 1)
* Pre-resolved for TT corner (dk* parameters substituted)
* Source: cells/pnp_05v5/sky130_fd_pr__pnp_05v5_W3p40L3p40.model.spice
* ============================================================================
.param sky130_fd_pr__pnp_05v5_W3p40L3p40__bf_slope = 0.0
.param sky130_fd_pr__pnp_05v5_W3p40L3p40__is_slope = 0.0
.param sky130_fd_pr__pnp_05v5_W3p40L3p40__xti_slope = 0.0

.subckt sky130_fd_pr__pnp_05v5_W3p40L3p40 c b e s
.param mult = 1.0
+ sky130_fd_pr__pnp_05v5_W3p40L3p40__bf_mm = {(16.603*dkbfpp5x*sky130_fd_pr__pnp_05v5_W3p40L3p40__bf_slope*0.45/sqrt(mult))}
+ sky130_fd_pr__pnp_05v5_W3p40L3p40__is_mm = {(7.1190e-018*1.00*dkispp5x*sky130_fd_pr__pnp_05v5_W3p40L3p40__is_slope*0.13/sqrt(mult))}
+ sky130_fd_pr__pnp_05v5_W3p40L3p40__xti_mm = {(5*sky130_fd_pr__pnp_05v5_W3p40L3p40__xti_slope/sqrt(mult))}

qsky130_fd_pr__pnp_05v5_W3p40L3p40 c b e s sky130_fd_pr__pnp_05v5_W3p40L3p40__model

.model sky130_fd_pr__pnp_05v5_W3p40L3p40__model pnp level=1
* General Parameters
+ tref = 30
+ subs = 1.0
* Capacitance Parameters
+ cjc = '9.155e-17*5.17*5.17*sky130_fd_pr__model__parasitic__diode_ps2nw__ajunction_mult+5.822e-16*4*5.17*sky130_fd_pr__model__parasitic__diode_ps2nw__pjunction_mult'
+ cje = '7.4079e-16*3.4*3.4*sky130_fd_pr__pfet_01v8__ajunction_mult+9.88e-17*4*3.4*sky130_fd_pr__pfet_01v8__pjunction_mult'
+ cjs = 0.0
+ fc = 0.5
+ mjc = 0.24
+ mje = 0.3
+ mjs = 0.24
+ vjc = 0.54
+ vje = 0.74
+ vjs = 0.54
+ xcjc = 1.0
+ ptf = 0
+ tf = 6.15385e-010
+ tr = 5e-008
+ vtf = 1.0e-12
+ xtf = 0.0
* Noise Parameters
+ af = 1.30180
+ kf = 4.9435066e-11
* DC Parameters
+ is = '7.1190e-018*dkispp5x+sky130_fd_pr__pnp_05v5_W3p40L3p40__is_mm'
+ rb = 73.32
+ re = 5.3848
+ irb = 0.0002
+ rc = 100.0
+ rbm = 25.19
+ bf = '16.603*dkbfpp5x+sky130_fd_pr__pnp_05v5_W3p40L3p40__bf_mm'
+ nf = '1.000*dknfpp5x'
+ vaf = 111.6
+ ikf = 0.00038589
+ ise = '1.0310e-015*dkisepp5x'
+ ne = 1.64
+ ns = 1
+ br = 0.2675
+ iss = 0
+ nr = 1.0
+ var = 4.3
+ ikr = 0.0043
+ nkf = 0.426
+ isc = 1.9855e-15
+ nc = 1.000
* Temperature Parameters
+ xtb = 1.692
+ xti = '5.0+sky130_fd_pr__pnp_05v5_W3p40L3p40__xti_mm'
+ eg = 1.125
+ tnf1 = 5.972e-6
+ tikf1 = -0.002456
+ tnf2 = -3.0e-8
.ends sky130_fd_pr__pnp_05v5_W3p40L3p40

* ============================================================================
* Poly Resistor — Generic PO (high-sheet poly, ~48.2 ohm/sq TT)
* Source: models/r+c.mrp1monte.spice
* ============================================================================
.param sky130_fd_pr__res_generic_po__slope = 0.0
.param sky130_fd_pr__res_generic_po__tc1_slope = 1.0
.param sky130_fd_pr__res_generic_po__tc2_slope = 1.0

.subckt sky130_fd_pr__res_generic_po r0 r1
.param w = 1 l = 0 mult = 1 r = 0
+ tc1 = {tc1rsgpu*sky130_fd_pr__res_generic_po__tc1_slope}
+ tc2 = {tc2rsgpu*sky130_fd_pr__res_generic_po__tc2_slope}
+ rp1_mm = {rp1*sky130_fd_pr__res_generic_po__slope/sqrt(2.0*l*w*mult+rp1/100000.0)}
+ r_tot = {(rp1+rp1_mm)*l/(w-1e6*(-tol_poly-poly_dw))+r}

sky130_fd_pr__res_generic_po r0 r1 sky130_fd_pr__res_generic_po__model r={r_tot} tc1r={tc1} tc2r={tc2}

.model sky130_fd_pr__res_generic_po__model r tref=30.0
.ends sky130_fd_pr__res_generic_po

* ============================================================================
* End of SKY130 Bandgap TT Corner Library
* ============================================================================
